US06794397B2
6-Chloro-N-(5-bromo-3-nitro-2-pyridyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 2-amino-5-bromo-3-nitropyridine as a light yellow solid as described in Example 1. 1H NMR (CDCl3): 10.56 (s, 1H), 9.00 (d, J=2.7, 1H), 8.82 (d, J=2.1, 1H), 8.69 (d, J=2.1, 1H), 8.27-8.23 (m, 1H), 7.53 (d, J=8.1, 1H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 2-amino-5-bromo-3-nitropyridine | NC1=NC=C(C=C1[N+](=O)[O-])Br | C5H4BrN3O2
product | 6-Chloro-N-(5-bromo-3-nitro-2-pyridyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=NC=C(C=C1[N+](=O)[O-])Br | C11H6BrClN4O3
